US07807684B2
Step 4: 4-chloro-3-(3-chloro-5-cyanophenoxy)phenyl trifluoromethanesulfonate (49-5)
A solution of 1.00 g (3.57 mmol) of 3-chloro-5-(2-chloro-5-hydroxyphenoxy)benzonitrile (C-3) in 10 mL of methylene chloride was cooled to −15° C. in a nitrogen atmosphere, and was treated with 747 μL (4.29 mmol) of diisopropylethylamine followed by 722 μL (4.29 mmol) of trifluoromethanesulfonic anhydride. The resulting solution was allowed to warm to room temperature, and was stirred overnight. The reaction was diluted with water, and the mixture extracted with ether. The ether layer was washed with 1N HCl, water, and brine, and was dried (anhydrous MgSO4). The dried extract was filtered, and the filtrate concentrated in vacuo to give the desired product as a brown oil that slowly crystallized to a tan solid. 1H NMR (CDCl3): 7.06 (d, 1H), 7.07 (m, 1H), 7.18 (m, 1H), 7.20 (dd, 1H), 7.43 (m, 1H), 7.62 (d, 1H).

reactant | 3-chloro-5-(2-chloro-5-hydroxyphenoxy)benzonitrile | 3.57 mmol, 1.00 g | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC(=C1)O)Cl | C13H7Cl2NO2
reactant | diisopropylethylamine | 4.29 mmol, 747 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 4.29 mmol, 722 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-chloro-3-(3-chloro-5-cyanophenoxy)phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)(F)F | C14H6Cl2F3NO4S
